US04925944
Preparation of Ethyl 2-methylquinoline-3-carboxylate
A solution of 140 g of dimethylformamide (1.92 mole ) in 500 mL of methylene chloride is mechanically stirred under a condenser/scrubber in an ice bath while 295 g of POCl3 (1.92 mol) is added dropwise over a 40 minute period. The reaction is stirred for a further 3 hour period, during which time the bath temperature is allowed to warm to room temperature. The reaction is then diluted with 2 L of methylene chloride, cooled in an ice bath, and treated dropwise with 394 g of ethyl β-anilinocrotonate (1.92 mol) over a 1 hour period. After stirring at room temperature for 26 hours, the reaction is heated at reflux temperature for 48 hours, cooled in an ice bath, quenched with 500 mL ice water, and treated portionwise with concentrated NH4OH to pH 6. The phases are separated and the organic phase is concentrated in vacuo to give a solid residue which is redissolved in 1.5 L ethyl acetate, filtered, and the filtrate saturated with gaseous hydrogen chloride. The resultant solid precipitate is filtered off, washed thoroughly with ethyl acetate, dissolved in water and basified with concentrated NH4OH. The basic aqueous mixture is extracted with 1:1 hexanes-ethyl acetate; the organic phase is concentrated in vacuo to afford 240 g of the title product, mp 70°-72° C.

reactant | dimethylformamide | 1.92 mole, 140 g | CN(C=O)C | C3H7NO
reactant | POCl3 | 1.92 mol, 295 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl β-anilinocrotonate | 1.92 mol, 394 g | N(C1=CC=CC=C1)\C(=C/C(=O)OCC)\C | C12H15NO2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-methylquinoline-3-carboxylate | 240 g | CC1=NC2=CC=CC=C2C=C1C(=O)OCC | C13H13NO2
